US08119676B2
5-Chloro-1-{2-oxo-1-phenyl-2-[3-(4-propyl piperazin-1-yl)pyrrolidin-1-yl]-ethyl}-1,3-dihydrobenzimidazol-2-one (IXe-4)
110 mg (0.36 mmol) of (5-chloro-2-oxo-2,3-dihydrobenzimidazol-1-yl)phenyl-acetic acid (VIIIe), 69.1 mg (0.51 mmol) of HOBt and 335 mg (0.44 mmol, 1.3 mmol/g) of solid phase-bound PS-carbodiimide were dissolved in 6 ml of dry dichloromethane in a screw-cap tube and shaken mechanically at room temperature for 10 min. 78.9 mg (0.40 mmol) of 1-propyl-4-pyrrolidin-3-ylpiperazine were added, and the mixture was then shaken mechanically overnight. Three equivalents of solid phase-bound MP-carbonate were then added to the reaction mixture, and shaking was continued for 2 h. The solid phase-bound reagents were filtered off and washed with dichloromethane. The filtrate was concentrated in vacuo and the residue was dried in vacuo. The reaction product was used without further purification for the next reaction step.

reactant | (5-chloro-2-oxo-2,3-dihydrobenzimidazol-1-yl)phenyl-acetic acid | 0.36 mmol, 110 mg | ClC1=CC2=C(N(C(N2)=O)C(C(=O)O)C2=CC=CC=C2)C=C1 | C15H11ClN2O3
reactant | HOBt | 0.51 mmol, 69.1 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | carbodiimide | N=C=N | CH2N2
reactant | 1-propyl-4-pyrrolidin-3-ylpiperazine | 0.40 mmol, 78.9 mg | C(CC)N1CCN(CC1)C1CNCC1 | C11H23N3
reactant | carbonate | C([O-])([O-])=O
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | 5-Chloro-1-{2-oxo-1-phenyl-2-[3-(4-propyl piperazin-1-yl)pyrrolidin-1-yl]-ethyl}-1,3-dihydrobenzimidazol-2-one | ClC1=CC2=C(N(C(N2)=O)C(C(N2CC(CC2)N2CCN(CC2)CCC)=O)C2=CC=CC=C2)C=C1 | C26H32ClN5O2
